US06787650B1
1-Acetyl-4-[4-(methylsulfonyl)benzyl]piperidine
To a solution of sodium hydrogensulfite (4.57 g) and sodium bicarbonate (6.10 g) in water (40 mL) was added 4-[(1-acetyl-4-piperidinyl)methyl]benzenesulfonyl chloride (11.46 g) at 75° C. under stirring, and the mixture was stirred at 75° C. for an hour. Chloroacetic acid (5.14 g) and an aqueous solution of 50% sodium hydroxide (4.4 mL) was added to the reaction solution and stirred for 20 hours under reflux with heat. 1N Hydrochloric acid (20 ml) was added to the reaction mixture at 0° C., and the reaction mixture was extracted with ethyl acetate (60 mL, 30 mL). The organic phase was washed with saturated brine (10 mL×2), dried over magnesium sulfate (anhydrous), and concentrated under reduced pressure. The residue was subjected to column chromatography (silica gel 150 g, ethyl acetate/methanol=1/0→9/1). The objective fraction was concentrated under reduced pressure to give the title compound as a colorless oil (8.76 g).

reactant | sodium hydrogensulfite | 4.57 g | S(=O)(O)[O-].[Na+]
reactant | sodium bicarbonate | 6.10 g | C([O-])(O)=O.[Na+]
reactant | 4-[(1-acetyl-4-piperidinyl)methyl]benzenesulfonyl chloride | 11.46 g | C(C)(=O)N1CCC(CC1)CC1=CC=C(C=C1)S(=O)(=O)Cl | C14H18ClNO3S
reactant | Chloroacetic acid | 5.14 g | ClCC(=O)O | C2H3ClO2
reactant | sodium hydroxide | 4.4 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 20 ml | Cl | ClH
solvent | water | 40 mL | O | H2O
product | 1-Acetyl-4-[4-(methylsulfonyl)benzyl]piperidine | 8.76 g | C(C)(=O)N1CCC(CC1)CC1=CC=C(C=C1)S(=O)(=O)C | C15H21NO3S
